US06184375B2
2,4-bis[2-hydroxy-4-(3-n-butoxy-2-hydroxypropoxy)phenyl]-6-[2-methoxy-4-(3-n-butoxy-2-hydroxypropoxy)phenyl]-1,3,5-triazine (Compound 1).
A mixture of 11.9 g (15.0 mmol) of 2,4,6-tris[2-hydroxy-4-(3-n-butoxy-2-hydroxypropoxy)phenyl]-1,3,5-triazine in 80 ml of diglyme (Fluka 99.5%) is heated under nitrogen to 80° C. To the solution there are added in succession 1.0 g (15.1 mmol) of pulverized KOH (Fluka, 85%) and 2.5 g (19.8 mmol) of dimethyl sulfate (Fluka, 99%), with stirring. After stirring at 80° C. for 20 h the mixture is cooled, the precipitate is filtered off and the solvent is stripped off from the filtrate. The crude product is purified by column chromatography (silica gel 60, 230-60 mesh, Ø=5 cm, h=30 cm; CH2Cl2/methanol 95:5). Stripping the solvent from the main fraction and drying at 100° C./0.9 mmHg for 3 h give 7.0 g (57.8%) of the title compound (Compound 1).

reactant | 2,4,6-tris[2-hydroxy-4-(3-n-butoxy-2-hydroxypropoxy)phenyl]-1,3,5-triazine | 15.0 mmol, 11.9 g | OC1=C(C=CC(=C1)OCC(COCCCC)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCC(COCCCC)O)O)C1=C(C=C(C=C1)OCC(COCCCC)O)O | C42H57N3O12
reactant | KOH | 15.1 mmol, 1.0 g | [OH-].[K+]
reactant | dimethyl sulfate | 19.8 mmol, 2.5 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | diglyme | 80 ml | COCCOCCOC | C6H14O3
product | 2,4-bis[2-hydroxy-4-(3-n-butoxy-2-hydroxypropoxy)phenyl]-6-[2-methoxy-4-(3-n-butoxy-2-hydroxypropoxy)phenyl]-1,3,5-triazine | 7.0 g, 57.8% | OC1=C(C=CC(=C1)OCC(COCCCC)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCC(COCCCC)O)O)C1=C(C=C(C=C1)OCC(COCCCC)O)OC | C43H59N3O12
